US07205296B2
To 4,5-difluoro-2-hydroxy-N-(4-nitrophenyl)benzamide (0.13 g, 0.44 mmol) in toluene (5 ml) was added paraformadehyde (0.3 g, 10 mmol) and p-toluenesulfonic acid (0.01 g, 0.05 mmol) and the reaction heated to 120° C. for 3 hr with azeotropic removal of water. Saturated sodium bicarbonate (10 ml) was added and product extracted with ethyl acetate, dried over anhydrous sodium sulfate and concentrated to give 0.11 mg (81%) of 6,7-difluoro-3-(4-nitrophenyl)-2,3-dihydrobenzo[e][1,3]oxazin-4-one. RP-HPLC: 2.54 min; ES-MS (M+H)+=307.0; 1H-NMR (MeOH-d4) δ (ppm): 5.78 (s, 2 H), 7.04 (dd, 1 H), 7.64 (d, 2 H), 7.82 (dd, 1 H), 8.3 (d, 2 H).

reactant | 4,5-difluoro-2-hydroxy-N-(4-nitrophenyl)benzamide | 0.44 mmol, 0.13 g | FC1=CC(=C(C(=O)NC2=CC=C(C=C2)[N+](=O)[O-])C=C1F)O | C13H8F2N2O4
reactant | p-toluenesulfonic acid | 0.05 mmol, 0.01 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
reactant | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 6,7-difluoro-3-(4-nitrophenyl)-2,3-dihydrobenzo[e][1,3]oxazin-4-one | 0.11 mg, 81% | FC=1C(=CC2=C(C(N(CO2)C2=CC=C(C=C2)[N+](=O)[O-])=O)C1)F | C14H8F2N2O4
